US03957782
a. 1-Ethyl-6-hydroxy-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid
57 g. of sodium salt of 1-ethyl-6-hydroxy-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid ethyl ester hydrate (2:1), prepared according to Example 1b, and 400 ml. of aqueous sodium hydroxide are heated to 60° with stirring for 16 hours. Then the solution is filtered and the filtrate is acidified with concentrated hydrochloric acid. The precipitated 1-ethyl-6-hydroxy-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid is filtered off, washed with water and dried at 70°, yield 31.4 g. (71%). A sample recrystallized from acetonitrile melts at 194°-195°.

reactant | sodium | [Na] | Na
reactant | 1-ethyl-6-hydroxy-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid ethyl ester hydrate | O.C(C)OC(=O)C=1N=C2C(=NC1O)N(N=C2)CC
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-Ethyl-6-hydroxy-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid | C(C)N1N=CC=2C1=NC(=C(N2)C(=O)O)O | C8H8N4O3
